Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm here for fear around food." 

 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
For further details of the history and presentation, please see 
___ including Dr. ___ and Dr. ___ 
consultation note dated ___.  
. 
Briefly, this is a ___ year old single, unemployed, college 
educated man, family history of alcohol use disorder, self 
reported history of depression, anxiety, psychiatric history 
concerning for psychotic symptoms s/p one psychiatric admission 
at ___ approximately ___ years ago, who presented 
to ___ upon the urging of his therapist due to symptoms of 
worsening psychosis. 
. 
Upon initial interview in the ED, patient reported increasing 
fears surrounding consumption of food/beverages and medications. 
Stated he is unsure where the fear stems from. Reported feeling 
as though something bad could happen if he were to consume 
anything. Reported a similar experience about ___ years ago with
a resultant month long hospitalization at ___. 
Reported his current symptoms started about a month ago and have 
gotten progressively worse. Reported he had not taken his 
medications in 5 days as he was afraid of the possible 
consequences. 
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
On my interview with Mr. ___, who was a relatively reliable 
historian, he confirmed the history obtained in the emergency 
room. He noted the fear surrounding eating began several years 
ago but does not recall the circumstances surrounding it's 
onset. Stated he has the belief that "if I eat something, 
particularly if it's bad, something will happen to me-- someone 
may try to stab me or beat me." States that certain foods are 
riskier, noting he particularly avoids, dairy products, sugars, 
and "toxins" such as alcohol and coffee. When asked what he has 
been eating, he noted, he has been trying to "push through and 
eat what I want but every time I do I get a sign from the
environment-- a subliminal message on Facebook or a license 
plate. 
. 
Mr. ___ reports he currently lives in ___ with his 
grandparents. Notes that recently he "doesn't do much at all." 
Reports he usually enjoys listening to music, watching movies, 
and hanging out with friends. Reported lately he has been 
feeling "depressed, down and tired... I've been trying to 
meditate." Notes that in the setting of being "malnourished" he 
has been feeling more weak and tired, which in part prompted his 
presentation to the emergency room. Notes things are going 
"fine" living with his grandparents but knows his grandmother 
recently "kicked me out of the house" because he was not 
eating... "we're not on the best of terms right now." 
. 
Mr. ___ denied frank depression with feelings of sadness but 
notes he "lacks joy and motivation." Reported sleep has been 
"okay," noting he sleeps about ___ hours per night. Poor energy 
in the setting of decreased po intake. Of note, reports his 
appetite is intact, he is currently 140 pounds with baseline
weight of about 155. No concerns about body habitus. 
. 
On psychiatric review of systems, denies history of manic 
symptoms including decreased need for sleep, history of 
impulsivity, hypersexuality, grandiosity. Denies AVH. Paranoia 
as noted above. Ideas of reference noted, with patient stating 
he believes if he eats certain foods, someone will get hurt. 
Also states that he fears if he drops a wine glass, a car 
accident may occur or someone may get hurt. 
. 

 
Past Medical History:
Past psychiatric history: Per OMR, patient 
- Diagnoses: Depression, anxiety 
- SA/SIB: denies/denies 
- Hospitalization: s/p one prior hospitalization at ___ ___ years ago
- Medication Trials: Zyprexa, Ativan 
- Psychiatrist: Dr. ___: recently started seeing, has
seen her for 3 visits. 
- Therapist: ___ in ___. Seeing for 8 months
___

Past medical history:
None 

 
Social History:
Substance use history:
- Alcohol: had been drinking excessively, ___ drinks per night 
several nights years ago. Last drink about a week ago. No 
withdrawal symptoms. 
- Illicits: history of cocaine (10 times in past) with last use 
8 months ago, history of cannabis use with last use a few months 
ago. Denies heroin, methamphetamines use; history of buying 
benzos occasionally. 
- Tobacco: Former smoker, occasional use, quit a year ago 
. 
Personal and Social History: ___
Family History:
Family psychiatric history:
- Diagnoses: No formal psychiatric diagnoses 
- SA: denies
- Addictions: alcohol use disorder in parents

 
Physical Exam:
Admission Examination:  
VS: T: 98.6, BP: 116/75, HR: 73, R: 18, O2 sat: 97% on RA

General: thin young male in NAD. Appears stated age.
 HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx 
clear.
 Neck: Supple.
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to voice
 IX, X: Not assessed
 XI: Sternocleidomastoid and trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. Sensation: Intact to light touch
throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
 Romberg: Not tested.

Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: intact to interview, MOYB notable for skipping form
___ ___
  Orientation: oriented to person, time, place, situation
  Executive function (go-no go, Luria, trails, FAS): not tested
  Memory: ___ registration, ___ recall
  Fund of knowledge: ___ presidents
  Calculations: $1.75 = 7 quarters
  Abstraction: watch/ruler= both have numbers on them
  Proverb: Deon't judge a book by it's cover: "look a ___
deeper before you make any judgments"
  Speech: normal rate, volume, and tone
  Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 Appearance: young male in no apparent distress, appears stated
age, wearing hospital gown backwards (open in the front, though
tied); tall, thin, wearing glasses
 Behavior: Calm, cooperative, pleasant, appropriate eye contact
 Mood and Affect: "steady" / euthymic, congruent with mood 
though
superficial
 Thought Process: linear, goal-oriented. No LOA.
 Thought Content: denies SI/HI/AH/VH, +delusions & paranoia
 Judgment and Insight: poor/poor

Discharge Examination: 
97.6 ___ 18 97% RA
A/B: Appears stated age, dressed casually with good hygiene and
grooming, calm, cooperative with interviewer
S: normal rate, volume, prosody 
M: "okay"
A: stable, no irritability, TC: denies SI/HI, AVH
TP: linear, goal oriented
C: awake, alert and oriented x3 
I/J: fair/fair
 
Pertinent Results:
=========
LABS
=========
___ 10:30AM BLOOD ALT-9 AST-17 LD(LDH)-133 AlkPhos-40 
TotBili-0.6
___ 11:00PM BLOOD WBC-6.8 RBC-5.27 Hgb-16.7 Hct-48.6 MCV-92 
MCH-31.7 MCHC-34.4 RDW-12.0 RDWSD-40.8 Plt ___
___ 11:00PM BLOOD Glucose-73 UreaN-30* Creat-1.1 Na-143 
K-4.3 Cl-102 HCO3-23 AnGap-22*
___ 10:30AM BLOOD Albumin-3.8 Cholest-201*
___ 10:30AM BLOOD Triglyc-52 HDL-51 CHOL/HD-3.9 
LDLcalc-140*
___ 10:30AM BLOOD TSH-1.5
___ 11:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 11:00PM URINE Blood-NEG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-150 Bilirub-SM  Urobiln-2* pH-6.0 Leuks-NEG
___ 11:00PM URINE RBC-2 WBC-1 Bacteri-FEW Yeast-NONE Epi-1
___ 11:00PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
Mr. ___ is a ___ year old single, unemployed, college educated 
man, family history of alcohol use disorder, self reported 
history of depression, anxiety, psychiatric history concerning 
for psychotic symptoms s/p one psychiatric admission at 
___ approximately ___ years ago, who presented to 
___ upon the urging of his therapist due to symptoms of 
worsening psychosis.

Review of medical record and interview with patient concerning 
for worsening of psychotic symptoms with worsening paranoia in 
the setting of medication noncompliance for the past 5 days, 
ideas of reference surrounding taking in food or drink, 
concerning for underlying primary psychotic disorder. Admission 
mental status examination was notable for a somewhat thin but 
adequately nourished man with blunted affect, thought process 
that is mostly linear and goal oriented and with limited insight 
and judgment. 

# Legal/Safety: 
Patient was initially admitted on a ___. On ___, he 
signed a CV. As he was denying suicidal ideation or thoughts of 
self harm during hospitalization, he was appropriate for 15 
minute checks and green sharps. Given psychotic symptoms and 
concern for elopement, he was inappropriate for fresh air groups 
and restricted to the unit during hospitalization. 

# Psychosis
Diagnostically, there was concern for an underlying primary 
psychotic disorder. He did not appear significantly 
depressed/dysphoric on examination and there was no history of 
manic symptoms, making bipolar disorder or major depressive 
disorder with psychotic features less likely. Pt and family also 
denied a history of substance abuse, making a substance abuse 
disorder with psychosis less likely. Obsessive compulsive 
disorder (which had been diagnosed during a prior psychiatric 
hospitalization around ___ was felt to be also unlikely as 
patient was felt to exhibit ideas of reference and not 
obsessions or compulsions. 

For treatment, pt was initially started on risperidone 3mg 
daily. Zyprexa was held due to concerns for oversedation per 
patient. He was then started in Invega IM due to concerns for 
medication non-compliance as an outpatient (reported by patient, 
family and outpatient psychiatrist). He received 234 mg IM ___ 
and 117 IM ___ he will be due for his next dose of 117 IM on 
___. Ativan 0.5mg PO was also started to be given TID with 
meals. This will be continued as an outpatient. Patient also 
attended groups, milieu, supportive psychotherapy, and 
psychoeducation.

# Poor po intake
Labs were stable at admission without signs of vitamin 
deficiency or electrolyte derangements. Weight improved during 
hospitalization; BMI at discharge was 20 (admission BMI was 19). 
Pt had adequate PO intake during hospitalization and was also 
started on a multivitamin, thiamine, B12, and folic acid.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OLANZapine (Disintegrating Tablet) 5 mg PO QHS 
2. LORazepam 0.5 mg PO BID 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY  
2.  Multivitamins 1 TAB PO DAILY  
3.  Thiamine 100 mg PO DAILY  
4.  LORazepam 0.5 mg PO TID W/MEALS 
RX *lorazepam 0.5 mg 1 tablet by mouth three times a day Disp 
#*90 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified psychotic disorder 

 
Discharge Condition:
97.6 ___ 18 97% RA
A/B: Appears stated age, dressed casually with good hygiene and
grooming, calm, cooperative with interviewer
S: normal rate, volume, prosody 
M: 'okay'
A: stable, no irritability, TC: denies SI/HI, AVH
TP: linear, goal oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___